US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (200 mg, 0.381 mmol) and ammonia in MeOH 7M (6 ml, 42.0 mmol) and heating to 45° C. overnight, the title compound was obtained as a light yellow solid (128 mg, 63% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.84 (s, 1H), 7.93 (d, J=5.2 Hz, 1H), 7.55-7.70 (m, 1H), 7.34-7.43 (m, 1H), 7.30 (t, J=6.3 Hz, 1H), 7.13-7.27 (m, 3H), 6.71 (s, 2H), 5.79 (d, J=5.1 Hz, 1H), 3.17-3.27 (m, 1H), 1.30 (d, J=6.9 Hz, 6H). MS (ESI): 506.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.381 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | ammonia | N | H3N
reactant | MeOH | 42.0 mmol, 7M, 6 ml | CO | CH4O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H18F3N5O2S2
